US07368462B1
Preparation of 5-cyano-naphthalene-2-carboxylic acid chloride (3):
To a suspension of 5-cyano-naphthalene-2-carboxylic acid, 2, (0.084 g, 0.426 mmol) in CH2Cl2 (2 mL) at room temperature containing 1 drop of DMF is added oxalyl chloride (0.074 mL). Once the solution is homogeneous, the solution is concentrated in vacuo and the crude product is used without further purification.

reactant | 5-cyano-naphthalene-2-carboxylic acid | C(#N)C1=C2C=CC(=CC2=CC=C1)C(=O)O | C12H7NO2
reactant | oxalyl chloride | 0.074 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 5-cyano-naphthalene-2-carboxylic acid chloride | C(#N)C1=C2C=CC(=CC2=CC=C1)C(=O)Cl | C12H6ClNO
